US05661108
To a stirred solution of 15.0 grams (0.094 mole) of 2,5-difluoronitrobenzene in 250 mL of dioxane was added 100 mL of triethylamine, followed by 7.3 grams (0.132 mole) of 2-propyn-1-ylamine. The reaction mixture was then warmed to reflux, where it was stirred for about four hours, then cooled to ambient temperature and poured into cold water. The resultant solid precipitate was collected by filtration and dried, yielding 10.0 grams of N-(2-propyn-1-yl)-4-fluoro-2-nitroaniline. The NMR spectrum was consistent with the proposed structure.

reactant | 2,5-difluoronitrobenzene | 0.094 mole, 15.0 grams | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
reactant | 2-propyn-1-ylamine | 0.132 mole, 7.3 grams | C(C#C)N | C3H5N
reactant | water | O | H2O
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | N-(2-propyn-1-yl)-4-fluoro-2-nitroaniline | 10.0 grams | C(C#C)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C9H7FN2O2
